US04933329
(1) Synthesis of 8-(4-methoxymethoxyphenyl)octanol:
To a suspension comprising 1.0 g of sodium hydride in 40 ml of dry tetrahydrofuran, 5.27 g of 8-(4-hydroxyphenyl)octanol dissolved in 50 ml of dry tetrahydrofuran was added dropwise at 0° C. The resulting mixture was stirred at room temperature for 30 minutes and then cooled to 0° C. again. Subsequently, 2.1 ml of chloromethyl methyl ether was added dropwise thereto. After stirring at room temperature for 30 minutes, the mixture was cooled to 0° C. and ice and a saturated aqueous solution of sodium bicarbonate were added thereto. The resulting mixture was then extracted with ethyl acetate. The extract was concentrated and subjected to column chromatography (silica gel, ethyl acetate: hexane=1:3-1:2). As a result, 4.05 g of the desired compound was obtained (yield: 66%).

reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 8-(4-hydroxyphenyl)octanol | 5.27 g | OC1=CC=C(C=C1)CCCCCCCCO | C14H22O2
reactant | chloromethyl methyl ether | 2.1 ml | COCCl | C2H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 8-(4-methoxymethoxyphenyl)octanol | 4.05 g, yield: 66% | COCOC1=CC=C(C=C1)CCCCCCCCO | C16H26O3
